US04439437
2-[2-(5-Methyl-4-imidazolyl-methylthio)ethylamino]-3-benzyloxy-5-methylpyridine (1.29 g, 3.5 mmole) was heated for 1 hour at 60° with conc. hydrochloric acid (excess). This mixture was then evaporated to dryness under reduced pressure and the residue was recrystallised from methanol and ethyl acetate to yield 2-[2-(5-methyl-4-imidazolylthio)ethylamino]-3-hydroxy-5-methylpyridine dihydrochloride (470 mg, 38% yield, mp 214°-216°).

reactant | 2-[2-(5-Methyl-4-imidazolyl-methylthio)ethylamino]-3-benzyloxy-5-methylpyridine | 3.5 mmole, 1.29 g | CC1=C(N=CN1)CSCCNC1=NC=C(C=C1OCC1=CC=CC=C1)C | C20H24N4OS
reactant | hydrochloric acid | Cl | ClH
product | 2-[2-(5-methyl-4-imidazolylthio)ethylamino]-3-hydroxy-5-methylpyridine dihydrochloride | 470 mg, 38% yield | Cl.Cl.CC1=C(N=CN1)SCCNC1=NC=C(C=C1O)C | InChI=1S/C12H16N4OS.2ClH/c1-8-5-10(17)11(14-6-8)13-3-4-18-12-9(2)15-7-16-12;;/h5-7,17H,3-4H2,1-2H3,(H,13,14)(H,15,16);2*1H
